US06875765B2
To a solution of phenol 4-((S)-2-tert-butoxycarbonyl-1-carbamoyl-ethylsulfamoyl)-3-hydroxy-benzoic acid methyl ester (3.0 g, 7.50 mmol) in dry THF (50 mL) at 0° C. was added 2-quinolin-5-yl-ethanol (1.30 g, 7.5.0 mmol) and triphenyl phosphine (3.90 g, 15.0 mmol) then followed by dropwise addition of diethyl azodicarboxylate (2.40 mL, 15.0 mmol). The reaction mixture was allowed to warm up to room temperature and stirred for 12 h. The solvent was removed and the crude product was purified using silica gel flash chromatography (30% hexanes in EtOAc). 4-((S)-2-tert-Butoxycarbonyl-1-carbamoyl-ethylsulfamoyl)-3-(2-quinolin-5-yl-ethoxy)-benzoic acid methyl ester was obtained (1.40 g, 33%) as an off white foam. MS m/z 556.2 (M−1).

reactant | phenol 4-((S)-2-tert-butoxycarbonyl-1-carbamoyl-ethylsulfamoyl)-3-hydroxy-benzoic acid methyl ester | 7.50 mmol, 3.0 g | COC(C1=CC(=C(C=C1)S(N[C@@H](CC(=O)OC(C)(C)C)C(N)=O)(=O)=O)O)=O.C1(=CC=CC=C1)O
reactant | 2-quinolin-5-yl-ethanol | 1.30 g | N1=CC=CC2=C(C=CC=C12)CCO | C11H11NO
reactant | triphenyl phosphine | 15.0 mmol, 3.90 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 15.0 mmol, 2.40 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-((S)-2-tert-Butoxycarbonyl-1-carbamoyl-ethylsulfamoyl)-3-(2-quinolin-5-yl-ethoxy)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)S(N[C@@H](CC(=O)OC(C)(C)C)C(N)=O)(=O)=O)OCCC1=C2C=CC=NC2=CC=C1)=O | C27H31N3O8S
